US08486950B2
NaH (0.46 g, 11.6 mmol, 60% dispersion in mineral oil) was added in one portion to a cooled (0° C.) solution of 2-chloro-3-nitropyridin-4-amine (1.00 g, 5.8 mmol) in DMF (15 mL). The mixture was stirred for 20 mins and then a solution of 2,6-dichloro-4-cyanobenzoyl chloride (0.68 g, 2.9 mmol) in DMF (5 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 4 hours and then poured onto ice-water (20 mL). The resulting precipitate was collected by filtration and then the filtrate was extracted by EtOAc (2×50 mL). The combined organic extracts were dried over Na2SO4 and concentrated under reduced pressure. The residue was combined with previously collected precipirate and the material was purified by silica gel column chromatography (MeOH:CH2Cl2 1:10) to afford N-(2-chloro-3-nitropyridin-4-yl)-2,6-dichloro-4-cyanobenzamide (0.5 g, yield: 23%). LCMS (ESI) m/z: 372.6 [M+H+]

reactant | NaH | 11.6 mmol, 0.46 g | [H-].[Na+]
reactant | 2-chloro-3-nitropyridin-4-amine | 5.8 mmol, 1.00 g | ClC1=NC=CC(=C1[N+](=O)[O-])N | C5H4ClN3O2
reactant | 2,6-dichloro-4-cyanobenzoyl chloride | 2.9 mmol, 0.68 g | ClC1=C(C(=O)Cl)C(=CC(=C1)C#N)Cl | C8H2Cl3NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2-chloro-3-nitropyridin-4-yl)-2,6-dichloro-4-cyanobenzamide | 0.5 g, yield: 23% | ClC1=NC=CC(=C1[N+](=O)[O-])NC(C1=C(C=C(C=C1Cl)C#N)Cl)=O | C13H5Cl3N4O3
